US04018794
4-Benzoyl-3-n-butoxy-5-chlorosulfonylbenzoic acid (1.5 g) is in portions added to conc. ammonium hydroxide (15 ml) while stirring at 10°-12° C. After additional stirring at room temperature for 16 hours, the mixture is left in a refrigerator for 4-5 hours. The separated ammonium salt is collected by filtration and washed with a small amount of icecold water. After drying, the salt is dissolved in 1 N sodium hydroxide (15 ml) and the solution is dropwise added to icecold 1 N acetic acid (20 ml) while stirring. The separated material is collected by filtration, washed with water and dried in the air. The product is recrystallized from aqueous ethanol, and the thus purified material is dissolved in 1 N NaOH (15 ml). The solution is dropwise added to icecold 1 N acetic acid (18 ml) while stirring. The precipitated material is collected by filtration, washed with water and dried in vacuo in the presence of P2O5, to give 4-benzoyl-3-n-butoxy-5-sulfamylbenzoic acid.

reactant | 4-Benzoyl-3-n-butoxy-5-chlorosulfonylbenzoic acid | 1.5 g | C(C1=CC=CC=C1)(=O)C1=C(C=C(C(=O)O)C=C1S(=O)(=O)Cl)OCCCC | C18H17ClO6S
reactant | ammonium hydroxide | 15 ml | [OH-].[NH4+]
product | 4-benzoyl-3-n-butoxy-5-sulfamylbenzoic acid | C(C1=CC=CC=C1)(=O)C1=C(C=C(C(=O)O)C=C1S(N)(=O)=O)OCCCC | C18H19NO6S
